US05736534
To 6-fluoroindoline (274 mg, 2.0 mmol) in dry i-PrOH (10mL) was added 4-chloro-6,7-dimethoxy-quinazoline (225 mg, 1.0 mmol). The mixture was refluxed for 16 hours under an atmosphere of dry N2(g) and then the solvent was removed in vacuo. The residue was partitioned between CHCl3 and 1M NaOH, and the organic phase was washed with brine, dried over Na2SO4(g) and concentrated in vacuo. The residue (535 mg) was purified by flash chromatography on silica using 80%EtOAc/CH2 Cl2 to yield 4-(6-fluoro-2,3-dihydro-indol-1-yl)-6,7-dimethoxyquinazoline as its free base (293 mg) (GC/MS: 325 (M+); LC-MS: 326 (MH+); anal. RP18-HPLC RT: 4.37 min.).

reactant | 6-fluoroindoline | 2.0 mmol, 274 mg | FC1=CC=C2CCNC2=C1 | C8H8FN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 mmol, 225 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | 10mL | CC(C)O | C3H8O
product | 4-(6-fluoro-2,3-dihydro-indol-1-yl)-6,7-dimethoxyquinazoline | FC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C18H16FN3O2
